US07319152B2
To a stirred solution of 1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile (0.25 g, 1.0 mmol) in acetonitrile (25 mL) was added samarium iodide (0.5 g, 1.2 mmol) and acetyl chloride (1.75 mL, 24.6 mmol). The reaction mixture was heated in microwave to 120° C. for 10 minutes. The mixture was treated with a 10% aqueous HCl solution (50 mL) and extracted with ethyl acetate (3×50 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated. The residue was purified on a silica gel column (30% ethyl acetate in hexane) to give 4-acetyl-1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile as a tan solid (0.025 g, 8%). MS (ESI) m/z 279; HRMS: calcd for C17H14N2O2+H+, 279.1128; found (ESI, [M+H]+), 279.1125.

reactant | 1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile | 1.0 mmol, 0.25 g | CN1C(=CC=C1C=1C=C2CCC(C2=CC1)=O)C#N | C15H12N2O
reactant | samarium iodide | 1.2 mmol, 0.5 g | [I-].[Sm+3].[I-].[I-]
reactant | acetyl chloride | 24.6 mmol, 1.75 mL | C(C)(=O)Cl | C2H3ClO
reactant | HCl | 50 mL | Cl | ClH
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-acetyl-1-methyl-5-(1-oxo-2,3-dihydro-1H-inden-5-yl)-1H-pyrrole-2-carbonitrile | 0.025 g, 8% | C(C)(=O)C=1C=C(N(C1C=1C=C2CCC(C2=CC1)=O)C)C#N | C17H14N2O2
